US08648068B2
III.1 (2S,4S)-1-tert-butyl 2-methyl 4-(5-fluoro-2-nitrophenoxy)pyrrolidine-1,2-dicarboxylate
Diethylazodicarboxylate (1.76 ml) was added dropwise to a solution of N-Boc-trans-4-hydroxy-L-proline methyl ester (2.74 g), 5-fluoro-2-nitrophenol (1.47 g) and triphenylphosphine (2.93 g) in dichlormethane under cooling at 0° C. The coolant was removed after 20 min and the reaction mixture was stirred at room temperature over the weekend. The solvent was evaporated and the residue war purified by chromatography to give the desired product.

reactant | Diethylazodicarboxylate | 1.76 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | N-Boc-trans-4-hydroxy-L-proline methyl ester | 2.74 g | COC([C@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C)=O | C11H19NO5
reactant | 5-fluoro-2-nitrophenol | 1.47 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | triphenylphosphine | 2.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichlormethane | ClCCl | CH2Cl2
product | (2S,4S)-1-tert-butyl 2-methyl 4-(5-fluoro-2-nitrophenoxy)pyrrolidine-1,2-dicarboxylate | FC=1C=CC(=C(O[C@H]2C[C@H](N(C2)C(=O)OC(C)(C)C)C(=O)OC)C1)[N+](=O)[O-] | C17H21FN2O7
